US05180733
Step 1: 2-Phenylmethyl-1,3-dithiane
To a solution of 33.9 g (280 mmol) of phenylacetaldehyde and 35.6 g (330 mmol) of 1,3-propanedithiol in 300 mL of methylene chloride at 0° C., was added, dropwise over a period of 30 minutes, 10 mL of boron trifluoride etherate. The reaction mixture was allowed to warm to ambient temperature and stirred for 3 h at ambient temperature. The reaction mixture was made basic by the addition of 180 mL of 5% aqueous potassium hydroxide solution and the resultant mixture was stirred for 0.5 h. The layers were separated and the aqueous layer was extracted with methylene chloride. The combined organic extract was washed with 1N aqueous sodium hydroxide solution and brine, dried over anhydrous magnesium sulfate, filtered and the filtrate was distilled to afford 53.62 g (91% yield) of the title compound, b.p. 150° C. (2 mm Hg); 1H NMR (CDCl3) δ1.75-1.95 (1H, m), 2.05-2.17 (1H, m), 2.75-2.91 (4H, m), 3.03 (2H, d, J=9 Hz), 4.25 (1H, t, J=9 Hz), 7.17-7.38 (5H, m).

reactant | phenylacetaldehyde | 280 mmol, 33.9 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | 1,3-propanedithiol | 330 mmol, 35.6 g | C(CCS)S | C3H8S2
reactant | boron trifluoride etherate | 10 mL | B(F)(F)F.CCOCC
reactant | potassium hydroxide | 180 mL | [OH-].[K+]
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-Phenylmethyl-1,3-dithiane | 53.62 g, 91% yield | C1(=CC=CC=C1)CC1SCCCS1 | C11H14S2
